US07666888B2
4-[(3-Benzylpyrrolidin-1-yl)carbonyl]-5-(4-methylphenyl)isoxazole
The title compound was prepared from 5-(4-methylphenyl)isoxazole-4-carboxylic acid (10.2 mg, 0.050 mmol) and 3-benzylpyrrolidine (9.7 mg, 0.060 mmol) as described in synthetic method B and thereafter purified by preparative HPLC method B to give a solid (5.8 mg). Calcd for C22H22N2O2: 346.1681, found 346.1693.

reactant | 5-(4-methylphenyl)isoxazole-4-carboxylic acid | 0.050 mmol, 10.2 mg | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)O | C11H9NO3
reactant | 3-benzylpyrrolidine | 0.060 mmol, 9.7 mg | C(C1=CC=CC=C1)C1CNCC1 | C11H15N
product | 4-[(3-Benzylpyrrolidin-1-yl)carbonyl]-5-(4-methylphenyl)isoxazole | C(C1=CC=CC=C1)C1CN(CC1)C(=O)C=1C=NOC1C1=CC=C(C=C1)C | C22H22N2O2
